US05776940
In the manner of step (a) of Example 6, cycloheptanemethylamine hydrochloride (R. B. Turner and R. H. Garner, J. Amer. Chem. Soc. 1958, 80:1424-1430; 22.00 g, 0.135 mole) was reacted with 1,1'-carbonyldiimidazole to give 1,3-bis(cycloheptylmethyl)urea as a white powder (4.45 g, 24%), m.p. 106°-108° C.; 1H-NMR (DMSO-d6) consistent with structure.

reactant | cycloheptanemethylamine hydrochloride | 0.135 mole, 22.00 g | Cl.C1(CCCCCC1)CN
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | 1,3-bis(cycloheptylmethyl)urea | 4.45 g, 24% | C1(CCCCCC1)CNC(=O)NCC1CCCCCC1 | C17H32N2O
